US07125906B2
A suspension of 1-methyl-2-carbamoyl-5-benzyloxy-1H-indole (1.94 g; 6.96 mmol) and 10% Pd/C (0.5 g) in methanol (100 ml) was hydrogenated for 2 hours. After filtration of the catalyst on celite, the filtrate was evaporated to give 1-methyl-2-carbamoyl-5-hydroxy-1H-indole.

reactant | 1-methyl-2-carbamoyl-5-benzyloxy-1H-indole | 6.96 mmol, 1.94 g | CN1C(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(N)=O | C17H16N2O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1-methyl-2-carbamoyl-5-hydroxy-1H-indole | Yield: 95% | CN1C(=CC2=CC(=CC=C12)O)C(N)=O | C10H10N2O2
